US04321381
There were added 9 ml of n-propyl iodide to a mixture of 10 g of 8β-methoxy-carbonylergoline and 8.2 g of potassium carbonate in 500 ml of DMF. After 20 hours under stirring at room temperature, the reaction mixture was poured into water and the precipitate was filtered and crystallized from methanol to give 10 g of 6-n-propyl-8β-methoxycarbonylergoline melting at 202°-204° C.

reactant | n-propyl iodide | 9 ml | C(CC)I | C3H7I
reactant | 8β-methoxy-carbonylergoline | 10 g | CO[C@H]1C(N[C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)=C=O | C16H16N2O2
reactant | potassium carbonate | 8.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 6-n-propyl-8β-methoxycarbonylergoline | 10 g | C(CC)N1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)C(=O)OC | C19H24N2O2
